US05034531
Add 11.8 g of oxalyl chloride dissolved in 25 ml of benzene to a suspension of 6.91 g of salicylic acid and 125 ml of benzene over a period of 20 minutes. Heat the mixture for about 14 hours, cool and evaporate the solvent to give 2-hydroxybenzenecarbonyl chloride as an oil. The crude product can be used directly in the subsequent step.

reactant | oxalyl chloride | 11.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | salicylic acid | 6.91 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | 2-hydroxybenzenecarbonyl chloride | OC1=C(C=CC=C1)C(=O)Cl | C7H5ClO2
